US05204346
To stirring phosphorous oxychloride (87 ml) at 80° C. was added four 2.0 g portions of 6-phenylsulfonyl-3-oxo-2,3-dihydropyridazine every 30 minutes. After additional two 1.0 g portions were added with stirring, the reaction mixture was slowly poured into ice-water over 1 hour to form the precipitate, which was collected, washed well with water, and dried to give 6-chloro-3-ph-enylsulfonylpyridazine (8.4 g).

reactant | phosphorous oxychloride | 87 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-phenylsulfonyl-3-oxo-2,3-dihydropyridazine | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC(NN1)=O | C10H8N2O3S
product | 6-chloro-3-ph-enylsulfonylpyridazine | 8.4 g | ClC1=CC=C(N=N1)S(=O)(=O)C1=CC=CC=C1 | C10H7ClN2O2S
